* source SMOKE_STOPPER_V10
R_R1         N00703 N00174  1k TC=0,0 
R_R2         0 N00174  10k TC=0,0 
R_R3         N00143 N00594  470 TC=0,0 
R_R4         N00302 N00143  10 TC=0,0 
Q_Q1         N00143 N00174 0 BC847B 
D_D2         0 N00302 BZX84C5V1/PLP 
X_M1         N00471 N00302 0 IRF540
R_R5         N00471 VCC  5 TC=0,0 
V_V1         N00594 0 5vdc
V_V2         VCC 0 24Vdc
V_V3         N00703 0 DC 0 AC 0
+PULSE 0 5 0 10n 10n 2.4998e-4 500u
